US05149642
1-Docosanoyl-2-decanoyl-3-octanoyl rac-glycerol.
A solution of 1-docosanoyl-2-decanoyl glycerol (24.6 mmole, 14.0 g), decanoic anhydride (26.8 mmole, 7.25 g) and 4-N,N-dimethylaminopyridine (DMAP) (1.25 mmole, 0.15 g) in methylene chloride (500 ml) is stirred at room temperature for 4 hours. Solvent is evaporated, the oily residue is dissolved in petroleum ether (500 ml) and cooled in dry ice. The precipitated product is filtered and dried under vacuum. Yield of 1-docosanoyl-2-decanoyl-3-octanoyl rac-glycerol is 13.8 g (81%).

reactant | 1-docosanoyl-2-decanoyl glycerol | 24.6 mmole, 14.0 g | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OCC(OC(CCCCCCCCC)=O)CO | C35H68O5
reactant | decanoic anhydride | 26.8 mmole, 7.25 g | C(CCCCCCCCC)(=O)OC(CCCCCCCCC)=O | C20H38O3
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
product | 1-Docosanoyl-2-decanoyl-3-octanoyl rac-glycerol | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OCC(OC(CCCCCCCCC)=O)COC(CCCCCCC)=O | C43H82O6
